US06653313B2
B. 3-{[2-(Bromomethyl)benzyl]oxy}-N-trityl-1-propanamine
To a suspension of NaH (909 mg/22.7 mmol) in THF (50 ml) was added 3-(tritylamino)-1-propanol, and the solution was stirred at reflux temperature for 2 hours. To the solution was added α,α′-dibromo-o-xylene, and the solution was stirred at reflux temperature for 16 hours. After cooling, the mixture was poured into water. The whole was extracted with ethyl acetate (100 ml×2). The combined organic layer was washed with brine (30 ml), dried over magnesium sulfate, filtered and concentrated. The residue was purified by column chromatography (SiO2, 200-350 mesh/hexane:ethyl acetate=100:0-20:1) to afford a yellow oil (4.84 g/51%).

reactant | NaH | 22.7 mmol, 909 mg | [H-].[Na+]
reactant | 3-(tritylamino)-1-propanol | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NCCCO | C22H23NO
reactant | α,α′-dibromo-o-xylene | BrCC=1C(=CC=CC1)CBr | C8H8Br2
reactant | water | O | H2O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 3-{[2-(Bromomethyl)benzyl]oxy}-N-trityl-1-propanamine | BrCC1=C(COCCCNC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1 | C30H30BrNO
